US06610708B1
(E)-3-Butoxycarbonylmethylidene-1-(α-Cyclopropylcarbonyl-2-Fluorobenzyl)-4-Hydroxypiperidine
150 ml of 1-butanol were added to 3.19 g (9.58 mmol) of (E)-3-carboxymethylidene-1-(α-cyclopropyl-carbonyl-2-fluorobenzyl)-4-hydroxypiperidine. Hydrogen chloride gas was blown through the resulting mixture until the solution became acidic. After standing at room temperature for 2 hours, 100 ml of benzene were added and the mixture was subjected to azeotropic dehydration for 2 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. Toluene and an aqueous solution of sodium bicarbonate were added to the residue. The toluene layer thus separated was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, followed by purification by chromatography on a silica gel column (eluting solvent: toluene/ethyl acetate=4/1), whereby 2.75 g (yield: 73.7%) of the tile compound were obtained as a pale yellow oil.

reactant | 1-butanol | 150 ml | C(CCC)O | C4H10O
reactant | (E)-3-carboxymethylidene-1-(α-cyclopropyl-carbonyl-2-fluorobenzyl)-4-hydroxypiperidine | 9.58 mmol, 3.19 g | C(=O)(O)\C=C\1/CN(CCC1O)C(C=1C(C(C=CC1)=C=O)F)C1CC1 | C18H20FNO4
reactant | Hydrogen chloride | Cl | ClH
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | (E)-3-Butoxycarbonylmethylidene-1-(α-Cyclopropylcarbonyl-2-Fluorobenzyl)-4-Hydroxypiperidine | 2.75 g, yield: 73.7% | C(CCC)OC(=O)\C=C\1/CN(CCC1O)C(C1=C(C=CC=C1)F)C(=O)C1CC1 | C22H28FNO4
